US07750003B2
N-[2-[[6-[(3S)-3-methylmorpholin-4-yl]-2-[4-[(1-methylpyrazol-4-yl)methylcarbamoylamino]phenyl]pyrimidin-4-yl]methylsulfonyl]ethyl]acetamide
meta-Chloroperbenzoic acid (156 mg, 0.90 mmol) dissolved in Dioxane (2 mL), and sodium permanganate monohydrate (192 mg, 1.20 mmol) dissolved in water (1 mL) were added dropwise to N-[2-[[6-[(3S)-3-methylmorpholin-4-yl]-2-[4-[(1-methylpyrazol-4-yl)methylcarbamoylamino]phenyl]pyrimidin-4-yl]methylsulfanyl]ethyl]acetamide (162 mg, 0.30 mmol) in dioxane (6 mL) and water (2 mL) at RT under nitrogen. The resulting solution was stirred at RT for 1 hour. The crude product was purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 7M ammonia in methanol and pure fractions were evaporated to dryness. The crude product was purified by preparative HPLC using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents, to give the desired material as a white solid (61 mg).

reactant | meta-Chloroperbenzoic acid | 0.90 mmol, 156 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium permanganate monohydrate | 1.20 mmol, 192 mg | O.[Mn](=O)(=O)(=O)[O-].[Na+]
reactant | N-[2-[[6-[(3S)-3-methylmorpholin-4-yl]-2-[4-[(1-methylpyrazol-4-yl)methylcarbamoylamino]phenyl]pyrimidin-4-yl]methylsulfanyl]ethyl]acetamide | 0.30 mmol, 162 mg | C[C@@H]1N(CCOC1)C1=CC(=NC(=N1)C1=CC=C(C=C1)NC(NCC=1C=NN(C1)C)=O)CSCCNC(C)=O | C26H34N8O3S
reactant | water | 1 mL | O | H2O
reactant | water | 2 mL | O | H2O
solvent | Dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | N-[2-[[6-[(3S)-3-methylmorpholin-4-yl]-2-[4-[(1-methylpyrazol-4-yl)methylcarbamoylamino]phenyl]pyrimidin-4-yl]methylsulfonyl]ethyl]acetamide | 61 mg | C[C@@H]1N(CCOC1)C1=CC(=NC(=N1)C1=CC=C(C=C1)NC(NCC=1C=NN(C1)C)=O)CS(=O)(=O)CCNC(C)=O | C26H34N8O5S
